Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Early recurrent HCV, leukopenia
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The patient is a ___ man who is s/p orthotopic 
deceased-donor liver transplant performed on ___, for 
Hepatitis C-related cirrhosis complicated by portal hypertension 
and hepatocellular carcinoma. On routine labs today he was found 
to have leukopenia with a WBC of 1.8. He has been having 
frequent labs drawn since his transplant, which have shown a 
progressive rise in his transaminases, and over the last 10 days 
a rise in his alkaline phosphatase and bilirubin as well, 
concerning for transplant rejection vs. early recurrent HCV. 
Tacrolimus levels during this time have been therapeutic. Liver 
biopsy on ___ showed evidence of early recurrent viral 
hepatitis C with minimal evidence for acute cellular rejection. 
Repeat biopsy on ___ showed evidence of early recurrent viral 
hepatitis C without diagnostic features of acute cellular 
rejection, as well as focal minimal portal fibrosis (stage ___. 
CTA of the abdomen and pelvis on ___ showed no evidence for 
recurrence of hepatocellular carcinoma, and normal 
post-transplant vasculature. AFP on ___ was elevated to 9.5 
(from 3.8 post-transplant). HCV VL on ___ was 1,580,000. He is 
being admitted today for treatment of recurrent HCV.

On ROS, he confirms occasional frontal H/A, and mild 
intermittent nausea. Had recent diarrhea, now resolved, with no 
melena or hematochezia. Also denies fever, chills, wt changes, 
anorexia, fatigue, vomiting, abdominal pain. Further ROS 
negative.
 
Past Medical History:
# Hepatitis C
- genotype 1, identified ___ yrs ago due to abnormal LFTs
- cirrhosis on biopsy ___
- s/p trial of interferon/ribavirin x6 months in ___, 
complicated by incomplete response and dose-limiting side 
effects
- EGD ___: mild portal hypertensive gastropathy in the body
- hepatocellular carcinoma s/p chemoembolization ___
- s/p OLT on ___
# CKD
# h/o Tb - Dx age ___ in ___ spent 8 months in 
sanitarium
- cannot remember if treated with INH therapy
# DM - secondary to steroids, no prior history
# GERD - Dx ___, s/p H. pylori eradication
# Pulmonary HTN - mild, with PASP 31 on right heart cath
# Osteopenia - noted in spine on BMD ___
# s/p appendectomy, ___
# s/p left inguinal hernia repair, ___
# Migraines
# Glaucoma 
 
Social History:
___
Family History:
Mother dx with stomach Ca at ___.
Father died of "old age".
2 half-bros, 1 half-sis, all healthy. 
 
Physical Exam:
VS - Temp 98.5, BP 134/90, HR 65, R 20, O2-sat 99% RA
GENERAL - well-appearing man in NAD, comfortable, appropriate, 
ambulating around unit
HEENT - sclerae with mild icterus, conjunctivae clear, MMM, OP 
clear
NECK - supple, no LAD
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/NT/ND, well healed ___ scar, no masses 
or HSM, no rebound/guarding
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs)
SKIN - port wine stain in distribution of right CN V1
NEURO - awake, A&Ox3, CNs II-XII grossly intact, moves all ext 
well 
 
Pertinent Results:
___ 08:40AM BLOOD WBC-1.8* RBC-4.74 Hgb-14.3 Hct-41.5 
MCV-88 MCH-30.1 MCHC-34.4 RDW-14.4 Plt ___
___ 05:45AM BLOOD Neuts-54 Bands-4 ___ Monos-13* 
Eos-3 Baso-0 ___ Metas-1* Myelos-0
___ 08:40AM BLOOD ___
___ 05:45AM BLOOD ___ ___
___ 08:40AM BLOOD UreaN-26* Creat-1.5* Na-137 K-4.5 Cl-105 
HCO3-23 AnGap-14
___ 08:40AM BLOOD ALT-232* AST-340* AlkPhos-204* 
TotBili-3.1* DirBili-2.3* IndBili-0.8
___ 08:40AM BLOOD Albumin-4.2 Calcium-9.1 Phos-3.4 Mg-1.4*
___ 08:40AM BLOOD tacroFK-12.9

CT Chest (___):
IMPRESSION:
1. No evidence of intrathoracic metastatic disease.
2. Approximately 2.4-cm focus of enhancement at the right lobe 
of the liver,
incompletely evaluated on this study. Given patient's history, 
further
evaluation with contrast-enhanced MRI is recommended.
.
___ 05:40AM BLOOD WBC-3.8* RBC-4.45* Hgb-13.4* Hct-39.7* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-15.2 Plt Ct-53*
___ 05:35AM BLOOD Neuts-68 Bands-8* Lymphs-8* Monos-16* 
Eos-0 Baso-0 ___ Myelos-0
___ 05:40AM BLOOD ___ ___
___ 05:40AM BLOOD ALT-200* AST-273* AlkPhos-345* 
TotBili-2.0*
___ 05:40AM BLOOD Calcium-8.8 Phos-4.1 Mg-1.5*
___ 05:40AM BLOOD tacroFK-5.___) Recurrent HCV s/p liver transplant: Patient's transaminases 
have been slowly trending up, and most recently his bili and alk 
phos were elevated. Recent liver biopsies showed early recurrent 
HCV, and notably have not shown evidence of acute rejection. His 
immunosuppressants are being tapered down now that he is ___ 
months s/p transplant. Specifically, cellcept was discontinued 
at his clinic appointment on day of admission and his tacrolimus 
0.5mg was dropped from BID to daily on admission. CT chest 
performed on day of admission to eval for ___ mets showed a 
2.4cm right liver lobe lesion. He had subsequent MRI, as well as 
MRCP to evaluate his rising bilirubin, which showed no 
concerning liver lesion but pancreatic head cyst. On hospital 
day 2, he was started on ribavirin 200 qam and 400 qpm, as well 
as inteferon alfacon-1 15mcg qpm. The IFN was preceded by 1L IVF 
hydration and 500mg acetaminophen to decrease side effects, 
although he experienced headache, chills, fever and rigors 
following the first dose. Blood and urine cultures were sent due 
to the fevers, and showed no significant growth.

2) Leukopenia: Likely due to his immunosuppressants. He has been 
tapered off some of his immunosuppression as above. He was 
started on filgrastim SC 480mcg three times weekly, and his WBC 
and ANC increased and his ANC was approximately 2500 at time of 
d/c.
 
Medications on Admission:
- Questran 4grams PO BID PRN pruritus
- Lispro ISS
- Latanoprost 1gtt OS QHS
- Cellcept 250mg PO BID - stopped ___
- Tacrolimus 0.5mg daily - new dose starting in AM on ___
- Bactrim SS 1tab PO daily
- Caltrate-600 plus Vitamin D3 PO daily
- MVI PO daily
- Omeprazole 40mg PO daily 
 
Discharge Medications:
1. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).
Disp:*30 Capsule(s)* Refills:*2*
2. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
5. Caltrate-600 Plus Vitamin D3 600-400 mg-unit Tablet Sig: One 
(1) Tablet PO once a day.  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Ribavirin 200 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).  
8. Ribavirin 200 mg Capsule Sig: Two (2) Capsule PO QPM (once a 
day (in the evening)).  
9. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO 1 HOUR 
BEFORE EACH INTERFERON DOSE ().  
10. Filgrastim 480 mcg/1.6 mL Solution Sig: One (1) Subcutaneous 
injection Injection MTh (___) twice weekly.  
11. Cholestyramine-Sucrose 4 gram Packet Sig: One (1) Packet PO 
QID (4 times a day) as needed for pruritus.
Disp:*120 Packet(s)* Refills:*0*
12. Insulin Lispro 100 unit/mL Solution Sig: SLIDING SCALE  
Subcutaneous ASDIR (AS DIRECTED).  
13. Pegasys
Please administer Pegasys 135 mcg shots every ___ starting 
___.  
14. Outpatient Lab Work
You should get twice weekly lab work drawn at the ___ 
on ___ and ___, starting on ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Early recurrent Hepatitis C infection in liver transplant
2. Leukopenia
.
Secondary Diagnoses:
- Chronic Kidney Disease

 
Discharge Condition:
Afebrile, vital signs stable.

 
Discharge Instructions:
You were admitted to ___ for 
your rising liver function tests and low white blood cell count. 
Based off your recent liver biopsies, there was concern for 
recurrent Hepatitis C infection in your liver transplant, so you 
were started on Interferon and Ribavirin for treatment of the 
virus. You were also started on Neupogen for your low white cell 
count. You had some fevers and headache, but you were not found 
to have an infection, so this was attributed to the Interferon 
treatments. 

You should continue to take the current doses of weekly 
Pegasys-Interferon (every ___, 1st dose on ___ and 
daily Ribavirin (200mg in the morning, 400mg in the evening). 
You should take the Neupogen two times a week (every ___ and 
___.  Your Pegasys-Interferon, Ribavirin and Neupogen will 
be sent to your house.  Please note that EXTRA doses of 
ribavirin have been ordered for you.

A new medication called cholestyramine was started to help 
control your itching. This prescription has been given to you.

Please keep all your medical appointments.  

You will need to get twice weekly lab draws on ___ and 
___ at the ___ Building. Your first lab draw will be on 
___.  Please go to Transplant Clinic to see Dr. 
___ your lab draw.

If you develop any of the following concerning symptoms, please 
call your physician or go to the nearest ED: fever>100.6, chest 
pain, shortness of breath, abdominal pain, or any other 
concerning symptoms.
 
Followup Instructions:
___